US06124421
Bis(4-Fluorophenyl)Ethyne (BFPE)
A 2-Liter 4-neck round-bottom flask, equipped with an overhead mechanical stirrer, a nitrogen inlet, a condenser, placed inside a heating mantle, was charged with 1-ethynyl-4-fluorobenzene (500 g, 4.165 Mol), 1-fluoro-4-iodobenzene (715 g, 3.23 Mol), 22.5 g of dichlorobis(triphenylphosphine)palladium[II] catalyst, 6 g of copper[I] iodide, 8 g of triphenylphosphine, and 800 mL of anhydrous triethylamine. This was heated to reflux (~88° C. ) with stirring. Heating continued for 1 hour after which a gas chromatograph sample showed <1% starting material remained. The reaction mixture was cooled and the copious precipitate was filtered. The solids were washed with dry triethylamine. The combined triethylamine solutions were concentrated on the rotary evaporator and the brown residue was taken up in a minimum of dichloromethane. This was placed on a silica gel plug (about 1.5 kg) and eluted with hexanes (8L). The hexane fractions were concentrated on the rotary evaporator. The solid was recrystallized from methanol. The recrystallized solid, now a pale yellow material, was taken up in portions with hexane and the solution run through another silica gel plug (about 2 kg). The first 8L were clear, the next 16L (using recycled hexane) were yellow. The clear solutions were combined and stripped of solvent to yield a white solid. The yellow solutions were run through another clean silica gel plug to give a clear solution. This was stripped of solvent to give a white solid. The white solids were combined and dried to constant weight in a vacuum oven giving 648 g of the final product. (73% yield, m.p. 95°-97° C.).

reactant | 1-ethynyl-4-fluorobenzene | 4.165 Mol, 500 g | C(#C)C1=CC=C(C=C1)F | C8H5F
reactant | 1-fluoro-4-iodobenzene | 3.23 Mol, 715 g | FC1=CC=C(C=C1)I | C6H4FI
catalyst | triphenylphosphine | 8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | 800 mL | C(C)N(CC)CC | C6H15N
product | Bis(4-Fluorophenyl)Ethyne | 648 g, 73% yield | FC1=CC=C(C=C1)C#CC1=CC=C(C=C1)F | C14H8F2
